US08183262B2
2-Methyl-6-[3-(4-methyl-imidazol-1-yl)-phenyl]-4-(4-trifluoromethyl-phenyl)-pyridine
The title compound was prepared from 2-iodo-6-methyl-4-(4-trifluoromethyl-phenyl)-pyridine (example A.31) (400 mg, 1.09 mmol) and 4-methyl-1-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazole [in situ prepared by the following sequence:

reactant | 2-iodo-6-methyl-4-(4-trifluoromethyl-phenyl)-pyridine | 1.09 mmol, 400 mg | IC1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C | C13H9F3IN
reactant | 4-methyl-1-[3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazole | CC=1N=CN(C1)C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C16H21BN2O2
product | 2-Methyl-6-[3-(4-methyl-imidazol-1-yl)-phenyl]-4-(4-trifluoromethyl-phenyl)-pyridine | CC1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC(=CC=C1)N1C=NC(=C1)C | C23H18F3N3
